US08420825B2
2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-((2S)-2,4-diaminobutanoyl)-L-alaninate dihydrochloride
420 mg (0.444 mmol) of 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-{(2S)-2,4-bis((tert-butoxycarbonyl)-amino)butanoyl}-L-alaninate were dissolved in 5 ml dichloromethane, and 4.442 ml of a 1N solution of hydrogen chloride in diethyl ether were added. After 4 hours of stirring, the precipitated solid was filtered off with suction, washed with diethyl ether and dried under reduced pressure. 322 mg (88% of theory) of the target compound were obtained.

reactant | 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-{(2S)-2,4-bis((tert-butoxycarbonyl)-amino)butanoyl}-L-alaninate | 0.444 mmol, 420 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N)CCNC(=O)OC(C)(C)C | C46H53ClN8O8S2
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-((2S)-2,4-diaminobutanoyl)-L-alaninate dihydrochloride | Cl.Cl.N[C@H](C(=O)N[C@@H](C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N)CCN | InChI=1S/C36H37ClN8O4S2.2ClH/c1-22(42-33(46)30(41)12-13-38)36(47)49-17-16-48-27-10-6-23(7-11-27)31-28(18-39)32(45-14-2-3-15-45)44-35(29(31)19-40)51-21-26-20-50-34(43-26)24-4-8-25(37)9-5-24;;/h4-11,20,22,30H,2-3,12-17,21,38,41H2,1H3,(H,42,46);2*1H/t22-,30-;;/m0../s1
